Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Seroquel / Haldol / fentanyl
 
Attending: ___.
 
Chief Complaint:
diffuse pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o man with SS Dz, asplenia, AVN of hips, port a cath in 
situ, narcotics dependence, hx. narcotics overdose, multiple 
admissions for pain associated with sickle cell disease 
including history of acute chest syndrome requiring intubation, 
presented to ___ yesterday with back and bt hip pain 
c/w prior episodes of severe/exacerbated pain.  CXR neg. VSS.  
No fevers.  No clear precipitant.  Pain is severe, in lower 
back, and hips and thighs mostly, but feels pain 'all over'.  It 
has been progressive over several days.  Alleviated by 
narcotics.

ROS - no fevers, no cough, no chest pain.  Had URI several weeks 
ago, felt feverish two days ago but not since.  Denies ha, 
visual changes, numbness/weakness.   All other systems reviewed 
and negative. 
 
Past Medical History:
Sickle Cell (born asplenic)  
Avascular Necrosis of b/l hips  
PAST SURGICAL HISTORY:  
Cord Decompressionb/l hip surgery  
Appendectomy  
Cholecystectomy  
Port A Cath placement x 4 given inability to achieve IV access  

 
Social History:
___
Family History:
Sickle cell disease.  

 
Physical Exam:
AF and VSS
NAD
Alert, oriented
MMM
Thin
Multiple tattoos
No JVD
RRR, ___ systolic murmur
Lungs CTA t/o
Abd soft, nt, nd, no hepatomegaly, bs present
No edema
Moves all ext

Discharge Exam: unchanged from admission
 
Pertinent Results:
___ and xr reviewed - hb over 8, no concerning 
abnormalities - wbc 10.4, K 3.5, Cr 0.6, cxr without acute 
pathology

___ 03:40PM   WBC-6.7 RBC-2.60* HGB-8.0* HCT-23.7* MCV-91 
MCH-30.7 MCHC-33.6 RDW-19.1*
___ 03:40PM   PLT SMR-NORMAL PLT COUNT-347
___ 03:40PM   GLUCOSE-128* UREA N-9 CREAT-0.7 SODIUM-138 
POTASSIUM-3.8 CHLORIDE-105 TOTAL CO2-24 ANION GAP-13
___ 03:40PM   CALCIUM-8.5 PHOSPHATE-2.9 MAGNESIUM-2.0
___ 03:40PM   HAPTOGLOB-<5*
___ 03:40PM   LD(LDH)-388* TOT BILI-1.3

MRI Hip: 
1. Findings consistent with osteonecrosis of the right femoral 
head, with 
evidence of prior surgery. No obvious articular surface 
collapse,  though a small area of flattening might not be 
apparent on MRI. 
2. No right hip joint effusion, surrounding muscle or soft 
tissue edema, or fluid collection. 
3. Several small lymph nodes seen in the right inguinal area. No 
associated fluid collection or other inflammatory changes are 
detected. 
4. Marrow changes compatible with marrow expansion in the 
setting of sickle cell disease. 

 
Brief Hospital Course:
Impression:
___ year old M with sickle cell anemia complicated by bilateral 
osteonecrosis, prior acute chest, and functional asplenia 
admitted with pain. Pt also with reported fever at home and R 
inguinal adenopathy on admission. 

1. Sickle cell w/ pain crisis - pt managed with help of pain 
service, his regimen consited of IV dilaudid ___ mg q3 hours. Pt 
despite appearing comfortable and at time somnolent to all care 
givers kept requesting escalation of his hydromorphone and the 
initiation of ketamine which was not pursued. On hospital day 3 
pt felt good enough and requested discharge. Pt had oxycodone 
30mgq4 script waiting for him to be picked up at his primary 
care office on the day of discharge. No additional scripts given 
to him. Otherwise, he was continued on his hydroxyurea. His H/H 
was stable with LDH below prior levels. No dyspnea or hypoxia. 
He initially received IVF and was later taking adequate amounts 
of oral hydration.  

2. Pt with report of fever at home. Exam on admission only 
notable for tender R inguinal adenopathy. Obvious infection in 
RLE identified. Urinalysis, GC/Chlamydia testing was negative. 
MR hip showed known osteonecrosis with no other significant 
findings. Pt was kept on ceftriaxone until admission cultures 
were negative x 48 hours. It was discontinued prior to 
discharge. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydroxyurea 1500 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
3. Docusate Sodium 100 mg PO BID 
4. Exjade (deferasirox) ___  oral daily 
5. FoLIC Acid 5 mg PO DAILY 
6. OxycoDONE (Immediate Release)  30 mg PO Q4H:PRN pain 
7. Promethazine 25 mg PO Q6H:PRN nausea 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. FoLIC Acid 5 mg PO DAILY 
3. Hydroxyurea 1500 mg PO DAILY 
4. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
5. Exjade (deferasirox) ___  oral daily 
6. OxycoDONE (Immediate Release)  30 mg PO Q4H:PRN pain 
7. Promethazine 25 mg PO Q6H:PRN nausea 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
sickle cell disease with pain crisis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

You were admitted due to pain crisis from your sickle cell 
disease. You were treated with pain medications and you are now 
ready to be discharged. Your workup showed stable blood counts. 
No infections were identified. An MRI of your right hip showed 
known osteonecrosis with no other complications. 

Please pick up your pain medication script as scheduled from Dr 
___. Please 
 
Followup Instructions:
___